US06277987B1
A. (2R)-t-Butoxycarbonylamino-5-(1,1,3-trioxo-2,3-dihydrobenzoisothiazol-2-yl)pentanoic acid t-butyl ester
Sodium hydride (0.311 g, 7.78 mmol) was added to a solution of saccharin (1.73 g, 9.44 mmol) and 18-crown-6 (0.025 g) in 10 mL of DMF. After stirring at RT for 30 min, (2R)-(t-butyloxycarbonylamino)-5-iodopentanoic acid t-butyl ester (2.78 g, 6.96 mmol) in 10 mL of DMF was added, and the solution was stirred at RT for 30 min, then at 60° C. for 6 h. The solvent was removed under reduced pressure, and the residue was partitioned between ethyl acetate and 0.05M aqueous HCl. The organic phase was washed with water and brine, dried over MgSO4 and concentrated. The crude material was purified by silica gel chromatography (hexane/ethyl acetate=4/1˜3/1) to give the title compound (1.98 g, 63% yield): NMR (400 MHz, CDCl3) 1.44 (s, 9H), 1.46 (s, 9H), 1.68-1.96 (m, 4H), 3.81 (t, 2H, J=7.0 Hz), 4.19-4.29 (m, 1H), 5.09 (br d, 1H, J=7.9 Hz), 7.82-7.93 (m, 3H), 8.06 (d, 1H, J=7.3 Hz).

reactant | Sodium hydride | 7.78 mmol, 0.311 g | [H-].[Na+]
reactant | saccharin | 9.44 mmol, 1.73 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | (2R)-(t-butyloxycarbonylamino)-5-iodopentanoic acid t-butyl ester | 6.96 mmol, 2.78 g | C(C)(C)(C)OC([C@@H](CCCI)NC(=O)OC(C)(C)C)=O | C14H26INO4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | 18-crown-6 | 0.025 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | (2R)-t-Butoxycarbonylamino-5-(1,1,3-trioxo-2,3-dihydrobenzoisothiazol-2-yl)pentanoic acid t-butyl ester | 1.98 g, 63% yield | C(C)(C)(C)OC([C@@H](CCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O)NC(=O)OC(C)(C)C)=O | C21H30N2O7S
